US05446203
Preparation of 2-cyclopentylidene-2-iodo-1-phenylethanone (13a)
1-Phenylethynyl-l-cyclopentanol (352 mg, 1.89 mmol) was dissolved in 20 mL of methanol. NIS (514 mg, 2.29 mmol) and HTIB (96 mg, 0.24 mmol) were added in one portion to the stirring solution. The reaction was protected from light and stirred at room temperature for 18 hours. The reaction mixture was diluted with 75 mL of diethyl ether and washed with 25 mL of 5% Na2S2O3 solution and followed by 3×25 mL of water. The organic solution was dried with MgSO4 and following filtration it was evaporated under vacuum to give a light green oil. The residue was subjected to a silica gel (40-40 mesh) column chromatography. Iodobenzene was eluted first with hexanes. The product was eluted next with 1:1 mixture Et2O/ hexanes to yield a light green oil after solvent evaporation (329 mg, 56%). The product was characterized by spectroscopy: 1H-NMR (CDCl3) δ1.75-1.84 (m, 4H), 2126 (t,7 Hz, 2H), 2154 (t, 7 Hz, 2H), 7.47 (t, 6 Hz, 2H), 7.67 (d, 6 Hz, 1H), 7.91(d, 6 Hz, 2H); 13C-NMR (CDCl3) δ25.22, 28.53, 34.02, 40.85, 85.60, 128.57, 128.61, 129.70, 133.23, 133.30, 134.50, 158.84, 1.92.83; IR (CHCl3) 1655 (s), 1590 (w), 1400 (w), 1300 (m), 1250 (s),1220 (m), 1170 (m), 1050 (w), 1025 (w), 820 (w), 750 (s) cm-1 ; MS m/z(rel. int.) 312 (M+, 2), 185 (M-I, 20), 184 (M-I-H, 11), 157 (13), 129 (11), 127 (I, 18), 115 (18), 105 (C6H5CO, 35), 80 (16), 77 (C6H5, 100); Anal. calcd for C13 H13IO: C, 49.98; H, 4.21. Found: C, 50.54: H, 4.21.

reactant | 1-Phenylethynyl-l-cyclopentanol | 1.89 mmol, 352 mg | C1(=CC=CC=C1)C#CC1(CCCC1)O | C13H14O
reactant | NIS | 2.29 mmol, 514 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | HTIB | 0.24 mmol, 96 mg | CC1=CC=C(C=C1)S(=O)(=O)OI(C2=CC=CC=C2)O | C13H13IO4S
solvent | methanol | 20 mL | CO | CH4O
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | 2-cyclopentylidene-2-iodo-1-phenylethanone | C1(CCCC1)=C(C(=O)C1=CC=CC=C1)I | C13H13IO
